Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram

 
History of Present Illness:
___ year old woman with obesity, fatty liver, presenting today 
for chest pain. She has had intermittent burning chest pain and 
heaviness when she goes upstairs or with heavy exertion for a 
year. Symptoms go away with cessation of activity. During a few 
times of chest discomfort, her husband felt her pulse and said 
it was in the 120s. Associated with minimal diaphoresis, 
shortness of breath, and lightheadedness. No nausea, vomiting. 
Pain is not always predictable. Not related to eating. She had 
been limiting exercise due to these symptoms. In ___, she was on 
a trip to ___ and developed chest tightness and burning with 
walking in setting of increased activity. Did not occur at rest. 
Pulse 120s during that episode. Over the last 4 days, she has 
increased her exercise regimen and developed chest pain with 
exertion that is lasting longer than previously -- about 40 
minutes. For the past 2 days, she has had chest pain with rest. 
She presented to ___ cardiology and was sent to the ED.  
 Of note, patient had syncopal event while flying back from 
___ in ___. Associated with nausea and vomiting. No recurrence 
of symptoms. Since her cholecystectomy, if she goes more than 4 
hours without eating and then eats a big meal, she gets dizzy, 
nauseous, and has diarrhea. Sometimes associated with 
presyncope. She has spoken to her Gastroenterologist about this 
and they are following it. They feel this is unrelated to her 
heart.  
 In the ED initial vitals were: 98.1, 65, 144/77, 18, 96% RA  
 - EKG: nsr at 62 NA/NI no ischemic changes  
 - Labs/studies notable for: cbc, chem 7 wnl. INR 1.2. Trop 
negative x2. Ddimer 762  
 - CXR negative for cardiopulmonary process  
 - CTA negative for PE.  
 - Patient was given: 0.5mg IV lorazepam  
 - Vitals on transfer: 64, 129/84, 18, 98% RA  
 On the floor, VSS. She is chest pain free with no shortness of 
breath. She does note increased pillow use at night for a while, 
but is not sure why. No swelling of her ankles.  
 ROS:  
 Cardiac review of systems is notable for absence paroxysmal 
nocturnal dyspnea, ankle edema, palpitations. Denies exertional 
buttock or calf pain.  
 On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies recent fevers, 
chills or rigors. All of the other review of systems were 
negative.  
 
Past Medical History:
 - pre-diabetes
 - obesity
 - cervical spondylosis with radiculopathy  
 - rotator cuff tear  
 - angiomyolipoma of kidney  
 - fatty liver  
 - pre-diabetes  
 - adenomatous colon polyp  
 - s/p cholecystectomy  
 - elevated IgA  
 - Obesity  
 - right ovarian cyst  
 - obesity  
 
Social History:
___
Family History:
Father had HTN, aortic aneurysm. Uncle with ___. Mother 
passed away from colon cancer. Paternal aunt with breast cancer. 
Sister with HTN. No history of premature CAD.  
 
Physical Exam:
Admission Physical
===============
VS: 97.8 PO, 143 / 70, 66, 18, 97 RA  
 GENERAL: WDWN woman in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with flat JVP  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  
 NEURO: CN II-XII intact, ___ strength in all extremities. Gait 
deferred.  

Discharge Physical
===============
VS: T 97.5 BP 114-141/68-79 HR59-69 RR18 O2 sat 97-100 
Weight: Not performed (admit wt: 98kg) 
GENERAL: Middle-aged woman in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. 
NECK: Supple with no JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No edema. WWP. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
Admission Labs
==============
___ 01:05PM BLOOD WBC-5.2 RBC-4.27 Hgb-12.1 Hct-39.7 MCV-93 
MCH-28.3 MCHC-30.5* RDW-13.2 RDWSD-45.2 Plt ___
___ 01:05PM BLOOD Neuts-45.6 ___ Monos-6.7 Eos-3.3 
Baso-0.2 Im ___ AbsNeut-2.37 AbsLymp-2.28 AbsMono-0.35 
AbsEos-0.17 AbsBaso-0.01
___ 01:05PM BLOOD Glucose-106* UreaN-19 Creat-0.9 Na-138 
K-4.3 Cl-102 HCO3-25 AnGap-15
___ 02:28PM BLOOD D-Dimer-762*

Discharge Labs
==============

___ 07:26AM BLOOD WBC-5.3 RBC-4.09 Hgb-11.8 Hct-36.4 MCV-89 
MCH-28.9 MCHC-32.4 RDW-13.5 RDWSD-43.7 Plt ___
___ 07:26AM BLOOD Plt ___
___ 07:26AM BLOOD Calcium-9.1 Phos-4.3 Mg-2.2 Cholest-167
___ 07:26AM BLOOD Triglyc-60 HDL-51 CHOL/HD-3.3 LDLcalc-104

Imaging & Studies
===============
CXR ___
FINDINGS: 
 
There is no consolidation, effusion or pneumothorax.  
Cardiomediastinal
contours are normal.  There is no subdiaphragmatic free air. No 
acute osseous
abnormalities identified.
 
IMPRESSION: 
 
No acute cardiopulmonary process identified.

CTA ___
FINDINGS: 
 
The imaged portion of the thyroid gland is unremarkable.  The 
thoracic aorta
is normal in course and caliber without signs of dissection.  
The heart is
normal in size and shape without pericardial effusion.  Main 
pulmonary artery
is normal in caliber.  The pulmonary arterial tree opacifies 
normally without
filling defect to suggest the presence of a pulmonary embolism.  
No pleural
effusion or pneumothorax.
 
Perifissural nodularity is seen on series 3, image 69 in the 
right upper lobe
measuring approximately 4 mm, likely an intrapulmonary lymph 
node. 
Hypoventilatory changes are noted.  There is no worrisome 
nodule, mass, or
consolidation.
 
In the imaged portion of the upper abdomen, clips in the 
gallbladder fossa
noted.  Otherwise, unremarkable.
 
Bones:  No worrisome lytic or blastic osseous lesion.  No 
fracture or
significant degenerative disease.  The visualized body wall is 
unremarkable.
 
IMPRESSION: 
 
No pulmonary embolism or other acute process in the chest.

Coronary Angiogram ___
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending The LAD is normal.
* Circumflex
The Circumflex is normal.
* Right Coronary Artery The RCA is normal.
Impressions:
Normal coronary arteries. Normal LVEDP.

Microbiology
===============
None
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with obesity and fatty liver 
who presented with chest pain concerning for unstable angina. 
Given her history of obesity and symptoms consistent with 
unstable angina, she was felt to have a high pre-test 
probability of coronary artery disease. 

# Chest pain: Patient with progressive chest pain with exertion, 
progressing to pain over last several days. Associated with 
diaphoresis, nausea, and dyspnea without radiation to left arm 
or jaw. Patient described the pain as burning and nature with 
tachycardia during episodes. Patient initially presented to the 
ED with troponins negative x 2. Patient was started on aspirin 
81mg, and atorvastatin 80mg. She was not started on metoprolol 
or heparin get given absence of chest pain, normal EKG, and 
negative serial troponin. After conversation with her 
cardiologist, she elected for a coronary angiogram for 
definitive diagnosis and treatment. She underwent a coronary 
catheterization through radial access that showed normal 
coronary arteries and normal LVEDP. Patient tolerated the 
procedure well and had minimal pain afterwards. She was stable 
for discharge that afternoon. Patient was informed that her 
chest pain was likely non-cardiac in origin and she should 
follow-up with her PCP for further management. Most likely 
etiology of patient's symptoms are deconditioning. Other 
potential etiologies include esophageal spasm, GERD, 
non-occlusive ischemia, or pulmonary process. 

Transitional Issues
====================
[ ] Patient's chest pain is not due to coronary atherosclerosis. 
Further investigation and management should be undertaken with 
her PCP on ___ basis
[ ] Patient needs no further f/u with cardiology at this time
# CODE: Full code
# CONTACT: Husband- ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
Patient was not discharged on any medications given clean 
coronary arteries. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for chest pain that had been 
bothering you over the past year. Over the last four days, you 
began to exert yourself and described worsening chest pain with 
exercise and pain at rest that was concerning for narrowing of 
your heart's arteries. After conversation with your 
cardiologist, you decided to undergo a cardiac catheterization, 
which is a procedure to look at the blood vessels in your heart. 


This procedure showed that you had normal coronary arteries and 
normal pressures in the left side of your heart. Your chest pain 
is not cause by decreased blood flow to your heart. It is not 
clear right now what is causing your pain. It may be from 
increasing your activity level after not exercising. Other 
possibilities include acid reflux, esophageal pain, or 
musculoskeletal pain among other things. You should follow-up 
with your primary care physician for further investigation of 
these causes. 

If you continue to have symptoms, you should contact your doctor 
to discuss whether it might be appropriate to conduct a stress 
test for non-occlusive causes of cardiac chest pain. 

We enjoyed taking care of you and wish you the best!

Sincerely, 

Your ___ Cardiology Team

 
Followup Instructions:
___